US04556482
Synthesis of N-Ethoxycarbonyl-N'-Isobutyl Thiourea
A solution of 5.3 grams of ethoxycarbonyl isothiocyanate (Preparation 1) in 100 ml of petroleum ether (b.p. 35°-60° C.) was cooled with stirring in an ice-water bath. To the above solution was added dropwise in 20 minutes a solution of 3.9 grams of isobutylamine in 50 ml of petroleum ether. The reaction flask was cooled in the ice-water bath during the addition. After the addition was complete the reaction flask was removed from the ice-water bath and let stand at an ambient temperature overnight. The solution was concentrated by stripping off most of the solvent. The concentrated solution was cooled in an ice-water bath. The crystals were collected by filtering and washing with hexanes. The product weighed 7.5 grams and melted at 50°-52° C.

reactant | ethoxycarbonyl isothiocyanate | 5.3 grams | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | isobutylamine | 3.9 grams | C(C(C)C)N | C4H11N
product | N-Ethoxycarbonyl-N'-Isobutyl Thiourea | C(C)OC(=O)NC(=S)NCC(C)C | C8H16N2O2S
